US08912169B2
Synthesis of (R)-3-(2-(trans-4-(2-(ethylamino)ethylamino)cyclohexyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from (R)-3-(2-(trans-4-(2-aminoethylamino)cyclohexyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid and acetaldehyde following the procedure described in Example 71. The product was purified using reverse phase HPLC to afford the titled compound. ESI-MS m/z 418 (MH)+.

reactant | (R)-3-(2-(trans-4-(2-aminoethylamino)cyclohexyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | NCCN[C@@H]1CC[C@H](CC1)CC(=O)N[C@@H]1B(OC2=C(C1)C=CC=C2C(=O)O)O | C19H28BN3O5
reactant | acetaldehyde | C(C)=O | C2H4O
product | (R)-3-(2-(trans-4-(2-(ethylamino)ethylamino)cyclohexyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | C(C)NCCN[C@@H]1CC[C@H](CC1)CC(=O)N[C@@H]1B(OC2=C(C1)C=CC=C2C(=O)O)O | C21H32BN3O5
